US06638965B2
b. (Z)-3-[1-(4-ethoxycarbonylmethyl-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone
0.84 g (2 mmol) of 3-(1-ethoxy-1-phenyl-methylidene)-5-phenylsulphonylamino-2-indolinone and 0.39 g (2.2 mmol) of 4-ethoxycarbonylmethyl-aniline are dissolved in 10 ml of DMF. The mixture is heated to 140° C. for 5 hours. Then water is added while the mixture is cooled with ice and stirred for 1 hour at ambient temperature. The precipitate formed is suction filtered, washed with water, a little isopropanol and ether, then dried in vacuo.

reactant | 3-(1-ethoxy-1-phenyl-methylidene)-5-phenylsulphonylamino-2-indolinone | 2 mmol, 0.84 g | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C23H20N2O4S
reactant | 4-ethoxycarbonylmethyl-aniline | 2.2 mmol, 0.39 g | C(C)OC(=O)CC1=CC=C(N)C=C1 | C10H13NO2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (Z)-3-[1-(4-ethoxycarbonylmethyl-phenylamino)-1-phenyl-methylidene]-5-phenylsulphonylamino-2-indolinone | C(C)OC(=O)CC1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1)=O | C31H27N3O5S
